* gnetlist -g spice-sdb -o rs.net rs.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nor.lib vvvvvvvv
.SUBCKT NOR IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ3 OUT IN2 GND GND nMOSe
MQ4 OUT IN1 GND GND nMOSe
MQ1 1 IN2 Vcc Vcc pMOSe
MQ2 OUT IN1 1 1 pMOSe
.ENDS NOR
*^^^^^^^^  End of included SPICE model from nor.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V3 SET 0 pwl 2 0 {2+1p} 3 3 3 {3+1p} 0
V2 RESET 0 pwl 1 3 {1+1p} 0 4 0 {4+1p} 3
XU2 Q SET nQ Vcc 0 NOR 
XU1 RESET nQ Q Vcc 0 NOR 
V1 Vcc 0 3
.end
