* gnetlist -g spice-sdb -o bridge.net bridge.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 1n4007.txt vvvvvvvv
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* February 2001
*   SPICE3
.model d1n4007 d is = 1.09774E-008 n = 1.78309 rs = 0.0414388
+ eg = 1.11 xti = 3
+ cjo = 2.8173E-011 vj = 0.50772 m = 0.318974 fc = 0.5
+ tt = 9.85376E-006 bv = 1100 ibv = 0.1 af = 1 kf = 0
*^^^^^^^^  End of included SPICE model from 1n4007.txt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
C1 n3 0 470uF  
R2 0 n3 100  
R1 1 n1 42  
.options TEMP=25
V1 1 n2 SIN(0 15 50)
D8 n2 n3 d1n4007 
D6 n1 n3 d1n4007 
D4 0 n1 d1n4007 
D2 0 n2 d1n4007 
.end
