* gnetlist -g spice-sdb -o kirghof.net kirghof.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V3 0 3 60
V2 1 4 50
V1 2 0 40
R3 0 4 30  
R2 1 3 20  
R1 2 1 10  
.end
