* gnetlist -g spice-sdb -o st.net st.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from dtrigger.lib vvvvvvvv
.SUBCKT DTRIGGER Data Clock Q nQ CLR Vcc GND

.SUBCKT NAND IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ7 OUT IN1 2 2 nMOSe 
MQ8 2 IN2 GND GND nMOSe 
MQ6 OUT IN2 Vcc Vcc pMOSe 
MQ5 OUT IN1 Vcc Vcc pMOSe 
.ENDS NAND

R1 GND S 1g
R2 Vcc R 1g
XU13 9 9 2 Vcc GND NAND
XU12 4 CLR 9 Vcc GND NAND
XU10 Clock Clock 5 Vcc GND NAND
XU3 Data Data 8 Vcc GND NAND
XU4 5 8 7 Vcc GND NAND
XU1 Data 5 6 Vcc GND NAND
XU5 S 7 R Vcc GND NAND
XU2 6 R S Vcc GND NAND
XU11 5 5 3 Vcc GND NAND
XU8 3 R 4 Vcc GND NAND
XU6 S 3 1 Vcc GND NAND
XU9 Q 2 nQ Vcc GND NAND
XU7 1 nQ Q Vcc GND NAND

.ENDS DTRIGGER
*^^^^^^^^  End of included SPICE model from dtrigger.lib ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from nand.lib vvvvvvvv
.SUBCKT NAND IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ7 OUT IN1 2 2 nMOSe 
MQ8 2 IN2 GND GND nMOSe 
MQ6 OUT IN2 Vcc Vcc pMOSe 
MQ5 OUT IN1 Vcc Vcc pMOSe 
.ENDS NAND
*^^^^^^^^  End of included SPICE model from nand.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.ic v(CLR)=0
C1 0 CLR 0.1u  
R1 CLR Vcc 10k
R2 0 OUT2 1g
R3 0 OUT4 1g
XU6 4 5 2 Vcc 0 NAND
XU5 3 OUT2 5 Vcc 0 NAND
XU4 OUT4 3 4 Vcc 0 NAND
XU3 OUT4 OUT2 3 Vcc 0 NAND
XU2 2 Clock OUT4 unconnected_pin-1 CLR Vcc 0 DTRIGGER
V2 Clock 0 pulse 0 3 1 1p 1p 1 2
XU1 1 Clock OUT2 1 CLR Vcc 0 DTRIGGER
V1 Vcc 0 3
.end
