* gnetlist -g spice-sdb -o va.net va.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nMOSe.txt vvvvvvvv
.model nMOSe nmos (vto=1)
*^^^^^^^^  End of included SPICE model from nMOSe.txt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
M1 1 2 0 0 nMOSe 
Vin 2 0 2
Vdd 1 0 DC
.end
