* gnetlist -g spice-sdb -o rcAC.net rcAC.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R1 n1 n0 10k  
C1 n1 0 1nF  
V1 n0 0 AC
.end
