* gnetlist -g spice-sdb -o parallel.net parallel.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R1 0 n1 1k  
I1 n1 0 AC
L1 0 n1 42uH 
C1 n1 0 42uF  
.end
