* gnetlist -g spice-sdb -o serial.net serial.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V1 3 0 AC
R1 3 2 1m  
L1 2 1 42uH 
C1 1 0 42uF  
.end
